US07067657B2
(±)-2-[2-Amino-5-(2,3-difluorophenylmethylthio)-thiazolo[4,5-d]pyrimidin-7-ylamino]-hexan-1-ol
Prepared according to the procedure in Example 1, from 5-(2,3-difluorophenylmethylthio)-7-chloro-thiazolo[4,5-d]pyrimidin-2-ylamine (WO 00/09511) and DL-2-amino-1-hexanol, with triethylamine (one equivalent) added.

reactant | 5-(2,3-difluorophenylmethylthio)-7-chloro-thiazolo[4,5-d]pyrimidin-2-ylamine | FC1=C(C=CC=C1F)CSC=1N=C(C2=C(N1)N=C(S2)N)Cl | C12H7ClF2N4S2
reactant | DL-2-amino-1-hexanol | CCCCC(CO)N | C6H15NO
reactant | triethylamine | one equivalent | C(C)N(CC)CC | C6H15N
product | (±)-2-[2-Amino-5-(2,3-difluorophenylmethylthio)-thiazolo[4,5-d]pyrimidin-7-ylamino]-hexan-1-ol | NC=1SC2=C(N=C(N=C2NC(CO)CCCC)SCC2=C(C(=CC=C2)F)F)N1 | C18H21F2N5OS2
